Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
Ms. ___ is a ___ year-old female with past medical history of
aortic stenosis, bilateral breast cancer with BRCA 1 mutation,
breast conserving therapy with AC chemotherapy, adjuvant
radiation (Stage T2 NO) c/b left-arm lymphedema who presents as 
a
transfer from an outside hospital with nausea, ___, and 
diarrhea.

Of note, she was treated with a 2 week course of clindamycin
starting 4 weeks ago for a dental Patient notes the subsequent
development of abdominal pain and diarrhea for the past ___
days. Describes the diarrhea as watery and non-bloody. She 
denies
fever or chills. She did take a dose of cefodroxil for "fever of
her left arm," which she states occasionally happens. Notes
redness and swelling of the left arm that happens sporadically.
One episode of the past where this led to staph osteomyelitis of
her spine that required long term antibiotics. She called her 
PCP
at ___ and was told to go to the ED on ___ due to concern for
appendicitis given RLQ pain. Patient has not had a colonoscopy 
in
the past, but used Cologuard which was reportedly negative. 

At ___ in ___, the patient received 3L of LR, 
Zosyn,
and was found to have a cr of 1.5, Na 128, positive UA, and CT
with 2 4mm non-obstructing stones as well as possible colitis vs
mass. While she was chest pain free, she did have an elevated
troponin. While all of her providers are at ___, she was told
they did not have any beds. Consequently, she was transferred to
___ ED. 

In the ED, initial vitals: 99.4 105 111/65 16 96% RA 

- Exam notable for: not documented 

- Labs notable for:  
        15.6
  13.4 >----< 315
        46.5

   135|100|28
   ----------< 109
   5.1|17|1.3

   ALT 15 AST 26 AP 51 bili 0.4 alb 3.0

   TropT < 0.01

- Imaging notable for: 
CT with 2 4mm non-obstructing stones as well as possible colitis
vs mass. 

- Pt given:  
+ Flagyl 500mg IV
+ Morphine Sulfate 2mg IV
+ 1L NS

- Vitals prior to transfer:  96 104/48 16 97% RA 

On the floor,  patient complains of mild RUQ pain and ongoing
diarrhea. Denies fevers, chills, or nights sweats. Denies
nausea/vomiting. Denies worsening swelling, warmth of her left
arm. 

 
Past Medical History:
Bilateral breast cancer (T2 N0) treated with lumpectomy, AC
chemotherapy, radiation
 
Social History:
___
Family History:
mother with breast CA d age ___, CAD, OA s/p TKR, osteoporosis,
mother had heart surgery with murmur with valve, dementia-mother
died of stroke age ___ this past year
father lung CA, alcoholism d. age ___
brother alcoholism
brother prostate CA age ___
sister breast CA age ___, depression
grandparents all died in their ___ of unclear causes
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
___ 0415 Temp: 97.8 PO BP: 117/64 R Sitting HR: 114 RR: 20
O2 sat: 98% O2 delivery: Ra 
General: Lying comfortably in bed. 
HEENT: EOMI. PERRLA. 
NECK: No JVD. 
CV: ___ systolic murmur at the RUSB. No rubs or gallops.   
Lungs: CTAB.   
Abdomen: Diffuse mild tenderness. No distention. No rebound or
guarding. 
Ext: Warm, well perfused, 2+ pulses.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities.

DISCHARGE PHYSICAL EXAM
=======================
General: Lying comfortably in bed. 
HEENT: EOMI. PERRLA. Mucus membranes dry. 
CV: ___ systolic murmur at the RUSB. No rubs or gallops.   
Lungs: CTAB.   
Abdomen: Diffuse mild tenderness, worst in the RLQ. No
distention. No rebound or guarding. 
Ext: Warm, well perfused, 2+ pulses.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 12:00AM BLOOD WBC-13.4* RBC-5.07 Hgb-15.6 Hct-46.5* 
MCV-92 MCH-30.8 MCHC-33.5 RDW-13.2 RDWSD-44.7 Plt ___
___ 12:00AM BLOOD Glucose-109* UreaN-28* Creat-1.3* Na-135 
K-5.1 Cl-100 HCO3-17* AnGap-18
___ 12:00AM BLOOD ALT-15 AST-26 AlkPhos-51 TotBili-0.4
___ 12:00AM BLOOD Albumin-3.0* Calcium-8.0* Phos-4.5 Mg-2.0

DISCHARGE LABS
==============
___ 06:21AM BLOOD WBC-9.0 RBC-4.60 Hgb-14.0 Hct-41.7 MCV-91 
MCH-30.4 MCHC-33.6 RDW-13.3 RDWSD-44.7 Plt ___
___ 06:21AM BLOOD Glucose-96 UreaN-12 Creat-0.6 Na-137 
K-4.1 Cl-101 HCO3-23 AnGap-13
___ 06:21AM BLOOD Calcium-7.9* Phos-2.5* Mg-2.1

RELEVANT MICRO
==============
C. difficile PCR (Final ___: 
      Reported to and read back by ___ MD, (___) 
___ @
      12:15 ___. 
      POSITIVE.              (Reference Range-Negative). 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 
C. difficile Toxin antigen assay (Final ___: 
      POSITIVE.              (Reference Range-Negative).  
PERFORMED BY ___. 
         This result indicates a high likelihood of C. difficile 
infection
         (CDI). 
 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with past medical history of 
aortic stenosis, bilateral breast cancer with BRCA 1 mutation 
s/p chemotherapy and adjuvant radiation c/b left-arm lymphedema,
who presented for C.Diff c/b ___. Her diarrhea improved with PO 
vanc, and her ___ resolved following fluid resuscitation and 
adequate PO intake. 

ACUTE ISSUES
============
# Diarrhea: 
# C.Diff infection c/b colitis: 
Patient presented with ___ days of diarrhea which developed 
after recent significant antibiotic use. CT abd w/o contrast at 
outside hospital indicated colitis. Stool testing was positive 
for C.Diff on ___. She was started on PO vanc that day. Her 
WBC count continued to downtrend, as well as improvement in her 
abdominal pain and diarrhea. No other stool studies or 
infectious work-up resulted positive. 
[] Please f/u her remaining stool studies. She has had no growth 
to date. 
[] Patient is being discharged with a 10 day course of PO Vanc 
(___)

# Acute Renal Failure:
Developed ___ to Cr 1.7 at OSH from baseline of 0.9. This was 
thought likely pre-renal in the setting of poor PO intake and 
dehydration from diarrhea. Resolved following adequate PO 
intake.

# Possible R colonic mass: 
Seen on initial read of CT abd w/o contrast on ___. Unclear 
significance in setting of colitis and intestinal inflammation. 
[] Patient should have a colonoscopy for further evaluation 
following resolution of her acute symptoms 

# Renal calculi:
# Asx Bacteruria 
Non-obstructive stones seen on CT abd on ___. There was 
initial concern for infected renal calculi at OSH given positive 
UA, however repeat UA here was unremarkable, and kidneys without 
signs of obstruction or inflammation. Cultures from OSH grew 
20000CFU Ecoli and 30000CFU Klebsiella, but cultures here had no 
growth. Also, patient not endorsing any related symptoms, and 
thus specific treatment was initiated. 

CHRONIC ISSUES
==============
# Bilateral breast cancer with BRCA 1 mutation, breast 
conserving
therapy with AC chemotherapy: 
Currently with no evidence of recurrent disease.

TRANSITIONAL ISSUES
===================
[] Please f/u her remaining stool studies. She has had no growth 
to date. 
[] Patient is being discharged with a 10 day course of PO Vanc 
(___)
[] Patient should have a colonoscopy for further evaluation 
following resolution of her acute symptoms 

# CODE: Full Code (presumed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral DAILY 

 
Discharge Medications:
1.  Simethicone 40-80 mg PO QID:PRN bloating 
RX *simethicone 80 mg 1 tablet by mouth QID PRN Disp #*30 Tablet 
Refills:*0 
2.  Vancomycin Oral Liquid ___ mg PO QID 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*32 Capsule Refills:*0 
3.  Calcium Citrate + D (calcium citrate-vitamin D3) 315-200 
mg-unit oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Clostridium Difficile Infection

SECONDARY
=========
Acute Renal Failure
Renal Calculi 
Possible right colonic mass
Bilateral breast cancer with BRCA 1 mutation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
- You were admitted to the hospital because of significant 
diarrhea and abdominal pain.   

What did you receive in the hospital?  
- While in the hospital, we tested your stool, and found an 
infection called Clostridium Difficile. We started an antibiotic 
that should treat the infection. 
- We also found that you were mildly dehydrated, but as we 
treated the infection and your ability to tolerate food 
improved, this seemed to resolve. 

What should you do once you leave the hospital?  
- Please continue to take your medications as prescribed.
- You are being discharged on an antibiotic called Vancomycin. 
Please take it four times a day for the next eight days. (Last 
day of antibiotics is ___ 
- You should follow-up with your primary care physician within 
the next ___ weeks for further monitoring of your symptoms. 
- Please continue to eat and drink a normal amount.   

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___